US08008305B2
2-(4-Methanesulfonyl-piperazin-1-yl)-N-[2-(4-phenoxy-phenyl)-ethyl]-nicotinamide
The title compound was prepared in analogy to example 1, but starting from 2-chloro-nicotinic acid methyl ester and subsequently using 1-methanesulfonyl-piperazine in the first step and 2-(4-phenoxy-phenyl)-ethylamine in the third step. MS (ISP): 481.1 ((M+H)+.).

reactant | 2-chloro-nicotinic acid methyl ester | COC(C1=C(N=CC=C1)Cl)=O | C7H6ClNO2
reactant | 1-methanesulfonyl-piperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | 2-(4-phenoxy-phenyl)-ethylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCN | C14H15NO
product | 2-(4-Methanesulfonyl-piperazin-1-yl)-N-[2-(4-phenoxy-phenyl)-ethyl]-nicotinamide | CS(=O)(=O)N1CCN(CC1)C1=C(C(=O)NCCC2=CC=C(C=C2)OC2=CC=CC=C2)C=CC=N1 | C25H28N4O4S
